US06340759B1
(14-3) 1-(1-Ethylpiperazin-4-yl)-[5-(3-benzyloxypropyl)pyridin-2-yl]isoquinoline
3-(3-Benzyloxypropyl)pyridine N-oxide (4.546 g) was dissolved in methylene chloride, phosphorus oxybromide (11.47 g) was added thereto under ice-cooling, and the mixture was stirred for 2 hr. Then, it was further stirred at room temperature for 2 hr. The reaction mixture was poured into warm water, and then it was neutralized by adding sodium bicarbonate thereto. The mixture was extracted with ethyl acetate. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give a mixture of 2-bromo-5-(3-benzyloxypropyl)pyridine and 2-bromo-3-(3-benzyloxypropyl)pyridine (1:1) as a brown oil (2.203 g). The resulting mixture (1.111 g) and 1-(1-ethylpiperazin-4-yl)-3-bromoisoquinoline (662 mg) were treated in the same manner as in Example 167-2, to give the title compound as a yellow oil (326 mg, yield; 33%).

reactant | 3-(3-Benzyloxypropyl)pyridine N-oxide | 4.546 g | C(C1=CC=CC=C1)OCCCC=1C=[N+](C=CC1)[O-] | C15H17NO2
reactant | phosphorus oxybromide | 11.47 g | P(=O)(Br)(Br)Br | Br3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-bromo-5-(3-benzyloxypropyl)pyridine | BrC1=NC=C(C=C1)CCCOCC1=CC=CC=C1 | C15H16BrNO
reactant | 2-bromo-3-(3-benzyloxypropyl)pyridine | 2.203 g | BrC1=NC=CC=C1CCCOCC1=CC=CC=C1 | C15H16BrNO
reactant | 1-(1-ethylpiperazin-4-yl)-3-bromoisoquinoline | 662 mg | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)Br | C15H18BrN3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(1-Ethylpiperazin-4-yl)-[5-(3-benzyloxypropyl)pyridin-2-yl]isoquinoline | 326 mg, yield; 33% | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=NC=C(C=C1)CCCOCC1=CC=CC=C1 | C30H34N4O
